US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.1 g, 0.23 mmol) was treated with cyclopentylamine (2.4 mL, 9.2 mmol) in methanol to give N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclopentanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white soldi (0.94 g, 87%). HRMS: calcd for C21H25F2N3O3S+H+, 438.16574; found (ESI, [M+H]+Obs'd), 438.1652.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2F)F)(=O)=O | C16H15BrF2N2O3S
reactant | cyclopentylamine | 9.2 mmol, 2.4 mL | C1(CCCC1)N | C5H11N
solvent | methanol | CO | CH4O
product | N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclopentanamine | FC1=C(C(=CC=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNC2CCCC2)(=O)=O | C21H25F2N3O3S
